US07202232B2
A mixture of 1,1,1,5,5,5-hexafluoro-pentane-2,4-dione (3.16 g, 15.2 mmol) and 4-hydrazinobenzoic acid hydrochloride (2.86 g, 15.2 mmol) in ethanol (5 mL) was stirred at 100° C. in a sealed tube for 4 hours. The mixture was cooled to room temperature and the solvent was removed under reduced pressure. The residue was purified by chromatography (SiO2, 4:1 to 3:1 hexane/EtOAc) to give 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester, (3.1 g, 58% yield) as a syrup: 1H-NMR (CDCl3) δ 1.40 (t, 3H, J=7), 4.35–4.50 (m, 2H), 7.10 (s, 1H), 7.60 (d, 2H, J=7), 8.21 (d, 2H, J=7) ppm.

reactant | 1,1,1,5,5,5-hexafluoro-pentane-2,4-dione | 15.2 mmol, 3.16 g | FC(C(CC(C(F)(F)F)=O)=O)(F)F | C5H2F6O2
reactant | 4-hydrazinobenzoic acid hydrochloride | 15.2 mmol, 2.86 g | Cl.N(N)C1=CC=C(C(=O)O)C=C1
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzoic acid ethyl ester | 3.1 g, 58% yield | C(C)OC(C1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F)=O | C14H10F6N2O2
